US07759518B2
Methyl 3-(N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)sulfamoyl)thiophene-2-carboxylate
According to the general procedure B, 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene 1,2-diamine was reacted with methyl 3-(chlorosulfonyl)thiophene-2-carboxylate to obtain the title compound. 1H NMR (300 MHz, CDCl3): δ 8.58 (s, 1H), 7.43 (dd, J=5.1 & 10.8 Hz, 2H), 7.35 (dd, J=1.8 & 10.2 Hz, 1H), 7.31 (ddd, J=2.1, 4.2 & 9.3 Hz, 1H), 7.04 (m, 2H), 5.88 (dt, J=2.7, 8.7 & 17.4 Hz, 1H), 5.65 (br s, 1H), 3.85 (s, 3H).

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene 1,2-diamine | FC1=CC=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N | C12H8F3IN2
reactant | methyl 3-(chlorosulfonyl)thiophene-2-carboxylate | ClS(=O)(=O)C1=C(SC=C1)C(=O)OC | C6H5ClO4S2
product | Methyl 3-(N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)sulfamoyl)thiophene-2-carboxylate | FC=1C(=C(C=CC1F)NS(=O)(=O)C1=C(SC=C1)C(=O)OC)NC1=C(C=C(C=C1)I)F | C18H12F3IN2O4S2
